US08067450B2
Step 4: Preparation of 5-{4-[2-(4-fluorophenyl)-2-oxoethoxy]benzyl}-1,3-thiazolidine-2,4-dione
To a stirring solution of 5-{4-[2-(4-fluorophenyl)-2-hydroxyethoxy]benzyl}-1,3-thiazolidine-2,4-dione (0.52 g, 1.40 mmol) in DCM (15 ml) was added DMSO (0.5 ml) and the solution was cooled to 0° C. Phosphorus pentoxide (0.41 g, 1.44 mmol) was added followed by triethylamine (0.90 mL, 6.48 mmol). The reaction was allowed to slowly warm to RT and then stirred for 5 hours. The reaction mixture was partitioned between DCM and H2O, and the aqueous phase was extracted with DCM. The combined organic phases were washed with brine, dried (Na2SO4), filtered and evaporated in vacuo. The resulting white solid was chromatographed on a small silica gel column eluting with 10% EtOAc/DCM. Fractions containing product were combined and evaporated in vacuo to give 0.25 g (48%) of the title compound as a white solid. MS (ESI+) for C18H14FNO4S m/z 359.9 (M+H)+. MS (ESI−) for C18H14FNO4S m/z 358.0 (M−H)−.

reactant | 5-{4-[2-(4-fluorophenyl)-2-hydroxyethoxy]benzyl}-1,3-thiazolidine-2,4-dione | 1.40 mmol, 0.52 g | FC1=CC=C(C=C1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)O | C18H16FNO4S
reactant | DMSO | 0.5 ml | CS(=O)C | C2H6OS
reactant | Phosphorus pentoxide | 1.44 mmol, 0.41 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | triethylamine | 6.48 mmol, 0.90 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 5-{4-[2-(4-fluorophenyl)-2-oxoethoxy]benzyl}-1,3-thiazolidine-2,4-dione | 0.25 g, 48% | FC1=CC=C(C=C1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O | C18H14FNO4S
